US04876261
α-(Aminomethyl)-3,4-dimethoxybenzyl alcohol hydrochloride (2.88 g) and 2-acetamido-4-formyl-thiazole (2.1 g) were suspended in 14 ml methanol, and 1.8 ml triethylamine was added dropwise to this suspension with stirring. The resulting solution was heated under reflux for 30 minutes, and 0.70 g sodium borohydride was added in small portions with stirring under ice cooling. The crystals which separated out were collected by filtration, washed with water and methanol in that order and vaccum-dried, giving 3.55 g of α-[[[(2-acetamido-4-thiazolyl)methyl]amino]methyl]-3,4-dimethoxybenzyl alcohol, m.p. 204°-206° C.

reactant | α-(Aminomethyl)-3,4-dimethoxybenzyl alcohol hydrochloride | 2.88 g | Cl.NCC(C1=CC(=C(C=C1)OC)OC)O
reactant | 2-acetamido-4-formyl-thiazole | 2.1 g | C(C)(=O)NC=1SC=C(N1)C=O | C6H6N2O2S
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 0.70 g | [BH4-].[Na+]
solvent | methanol | 14 ml | CO | CH4O
product | α-[[[(2-acetamido-4-thiazolyl)methyl]amino]methyl]-3,4-dimethoxybenzyl alcohol | 3.55 g | C(C)(=O)NC=1SC=C(N1)CNCC(C1=CC(=C(C=C1)OC)OC)O | C16H21N3O4S
